US06608070B1
2-Acetyl-4-propylpyridine:
The title compound was prepared from 4-propyl-2-pyridinecarbonitrile according to the procedure for preparing 2-acetyl-4-chloropyridine described in Example 33.

reactant | 4-propyl-2-pyridinecarbonitrile | C(CC)C1=CC(=NC=C1)C#N | C9H10N2
reactant | 2-acetyl-4-chloropyridine | C(C)(=O)C1=NC=CC(=C1)Cl | C7H6ClNO
product | 2-Acetyl-4-propylpyridine | C(C)(=O)C1=NC=CC(=C1)CCC | C10H13NO
